US07396849B2
A mixture of 3-amino-2-methylbenzoic acid (Intermediate M1) (6.06 g, 39.6 mmol) (commercially available from Aldrich) and arsenic acid (H5As3O10) 7.43 g (commercially available from VWR/ALFA) in glycerol (5.8 mL, 79.2 mmol), and sulfuric acid (9 mL) was heated to 160° C. for 5 h. The mixture was cooled to rt, diluted with water and filtered through a bed of diatomaceous earth. The pH was adjusted to pH 6-7 with 2 M NaOH. The aqueous layer was exhaustively extracted with CHCl3:MeOH (3:1). The organic fractions were pooled and evaporated under vacuum to give a solid. This solid was titurated with CHCl3, and collected on a glass frit. The solid material was washed with hexanes and dried under high vacuum to give a pure solid, 8-methylquinoline-7-carboxylic acid (Intermediate M2) 3.86 g (51%).

reactant | 3-amino-2-methylbenzoic acid | 39.6 mmol, 6.06 g | NC=1C(=C(C(=O)O)C=CC1)C | C8H9NO2
reactant | arsenic acid | 7.43 g | [As](O)(O)(O)=O | AsH3O4
reactant | glycerol | 79.2 mmol, 5.8 mL | OCC(O)CO | C3H8O3
reactant | sulfuric acid | 9 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 8-methylquinoline-7-carboxylic acid | 3.86 g, 51% | CC=1C(=CC=C2C=CC=NC12)C(=O)O | C11H9NO2
